US08871753B2
Step C: tert-Butyl 4-[2-(2-iodo-4-nitrophenoxy)ethyl]piperidine-1-carboxylate
A solution of sodium hydride (0.16 g, 3.9 mmol) in tetrahydrofuran (10 mL) at 0° C. was treated with a solution of tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate (0.82 mL, 3.7 mmol) in tetrahydrofuran (5 mL) and stirred at 0° C. for 30 minutes. The reaction mixture was treated with a solution of 1-fluoro-2-iodo-4-nitrobenzene (1.0 g, 3.7 mmol) in tetrahydrofuran (5 mL) and heated at 70° C. for 16 h. The reaction mixture was concentrated, diluted with ethyl acetate, and washed with water. The aqueous layer was separated and extracted with additional ethyl acetate. The combined organic extracts were washed with brine, dried with sodium sulfate, filtered, and concentrated to a crude brown oil. Purification by flash column chromatography gave the desired product (1.4 g, 81%) as a yellow oil. LCMS for C18H251N2O5Na (M+Na)+: m/z=499.0.

reactant | sodium hydride | 3.9 mmol, 0.16 g | [H-].[Na+]
reactant | tert-butyl 4-(2-hydroxyethyl)piperidine-1-carboxylate | 3.7 mmol, 0.82 mL | OCCC1CCN(CC1)C(=O)OC(C)(C)C | C12H23NO3
reactant | 1-fluoro-2-iodo-4-nitrobenzene | 3.7 mmol, 1.0 g | FC1=C(C=C(C=C1)[N+](=O)[O-])I | C6H3FINO2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-Butyl 4-[2-(2-iodo-4-nitrophenoxy)ethyl]piperidine-1-carboxylate | 1.4 g, 81% | IC1=C(OCCC2CCN(CC2)C(=O)OC(C)(C)C)C=CC(=C1)[N+](=O)[O-] | C18H25IN2O5
